US07618982B2
DL-4-azido-3-tert-butoxycarbonylamino-butyric acid
DL-4-azido-3-tert-butoxycarbonylamino-butyric acid methyl ester (450 mg, 1.74 mmol) was dissolved in THF (12 mL) and hydrolized by adding an aqueous solution of LiOH (393 mg).

reactant | 4-azido-3-tert-butoxycarbonylamino-butyric acid methyl ester | 1.74 mmol, 450 mg | COC(CC(CN=[N+]=[N-])NC(=O)OC(C)(C)C)=O | C10H18N4O4
reactant | LiOH | 393 mg | [Li+].[OH-]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 4-azido-3-tert-butoxycarbonylamino-butyric acid | N(=[N+]=[N-])CC(CC(=O)O)NC(=O)OC(C)(C)C | C9H16N4O4
